US07511084B2
Trimethylbenzoylphenylphosphinic acid sodium salt
644 g of ethyl trimethylbenzoylphenylphosphinate (Lucirin® TPO-L, BASF AG) were initially introduced in 3000 ml of ethyl methyl ketone, and 1.1 equivalents (285 g) of sodium iodide were added to the solution. After 15 minutes, the homogeneous solution was heated to 65° C. and stirred for 24 hours. The yellow precipitate was filtered off with suction and washed with 2×500 ml of petroleum ether. The filter cake was dried at 60° C. under reduced pressure. 530 g (85% of theory) of pale-yellow powder were isolated.

reactant | ethyl trimethylbenzoylphenylphosphinate | 644 g | CC1=C(C(=C(C=C1)P(OCC)(=O)C(C1=CC=CC=C1)=O)C)C | C18H21O3P
reactant | sodium iodide | 285 g, 1.1 equivalents | [I-].[Na+]
solvent | ethyl methyl ketone | 3000 ml | CC(=O)CC | C4H8O
product | Trimethylbenzoylphenylphosphinic acid sodium salt | [Na+].CC1=C(C(=C(C=C1)P([O-])(=O)C(C1=CC=CC=C1)=O)C)C | InChI=1S/C16H17O3P.Na/c1-11-9-10-15(13(3)12(11)2)20(18,19)16(17)14-7-5-4-6-8-14;/h4-10H,1-3H3,(H,18,19);/q;+1/p-1
